US08476253B2
4-{2-[(tert-Butoxycarbonyl)(methyl)amino]ethyl}benzoic acid
The resulting methyl 4-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}benzoate (200 mg, 0.682 mmol) was dissolved in tetrahydrofuran (4 mL), a 1 N aqueous sodium hydroxide solution (1 mL) was added under ice cooling, and the mixture was stirred at room temperature for 16 hours. After the reaction was completed, the aqueous layer was washed with ethyl acetate, the aqueous layer was adjusted to pH 3 with a 1 N aqueous hydrochloric acid solution, and then ethyl acetate was further added to separate the layers. The resulting organic layer was separated, washed with saturated sodium chloride solution, and then dried with anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a crude title compound (140 mg; yield, 74%) as a colorless oily substance.

reactant | methyl 4-{2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}benzoate | 0.682 mmol, 200 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C(=O)OC)C=C1)C | C16H23NO4
reactant | sodium hydroxide | 1 N, 1 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 4-{2-[(tert-Butoxycarbonyl)(methyl)amino]ethyl}benzoic acid | 140 mg, 74% | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C(=O)O)C=C1)C | C15H21NO4
